US06723114B2
First, a prepolymer of 90/10 ε-caprolactone/glycolide copolymer was prepared using decyl alcohol as the initiator and stannous octoate as the catalyst, respectively. The polymerization was conducted at 170° C. The resulting polymer was cooled to 120° C. and a 65/52 mixture of glycolide and dl-lactide added. When the added monomers dissolved with stirring at about 120° C., the second stage of the polymerization process was then completed at about 170° C. Trace amounts of unreacted monomer were distilled under reduced pressure at about 110° C. The resulting product was shown by DSC to melt at about 48° C. and underwent a glass transition below 40° C. The polymer was shown to have an inherent viscosity of 0.35 in chloroform at 0.1 percent concentration.

reactant | decyl alcohol | C(CCCCCCCCC)O | C10H22O
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | glycolide | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | dl-lactide | CC1C(=O)OC(C(=O)O1)C | C6H8O4
product | ε-caprolactone glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
